US04342765
To a solution of 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole (0.2 g.) in acetonitrile (20 ml.) was added 1,1-di(methylthio)-2-nitroethylene (0.125 g.) and the mixture heated under reflux for 7 hours. The reaction mixture was evaporated to dryness and the residue of 1-[3-[2-(2-methylguanidino)thiazol-4-yl]cyclohexylamino]-1-methylthio-2-nitroethylene, dissolved in ethanol (20 ml.), was treated with 20 ml. of a solution of methylamine in ethanol (33% w/v). The reaction mixture was allowed to stand overnight. Evaporation of the solvent and recrystallisation of the residue from methanol gave 1-[3-[2-(2-methylguanidino)thiazol-4-yl]cyclohexylamino]-1-methylamino-2-nitroethylene, m.p. 164°-174° (decomp.).

reactant | 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole | 0.2 g | CN=C(NC=1SC=C(N1)C1CC(CCC1)N)N | C11H19N5S
reactant | 1,1-di(methylthio)-2-nitroethylene | 0.125 g | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[3-[2-(2-methylguanidino)thiazol-4-yl]cyclohexylamino]-1-methylamino-2-nitroethylene | CN=C(NC=1SC=C(N1)C1CC(CCC1)NC(=C[N+](=O)[O-])NC)N | C14H23N7O2S
